US08871937B2
7-[(2-hydroxyphenyl)-(6-methyl-pyridin-2-ylamino)-methyl]-quinolin-8-ol
The title compound was prepared by method B presented for the compound of Example 1 with the change that the reaction was conducted with salicylaldehyde (Molar), 2-amino-6-picoline (1 equivalent) and 8-hydroxy-quinoline (0.6 equivalent) as starting materials. Product precipitation; C22H19N3O2; (MW: 357.1), yield 1.6 g, (50.9%); m.p.: 189-191° C.; HPLC (CH3CN/H2O 70.30 Phenomenex C18 282 nm): Tr=5.05 min. 1H NMR 13 (DMSO) δ 2.23 (3H, s), 6.34 1H, d, J=6.0 Hz), 6.38 (1H, d, J=7.1 Hz), 6.69 (1H, t, J=7.2 Hz), 6.80 (2H, m) 7.02 (2H, m), 7.18 (1H, d, J=6.2 Hz), 7.25 (1H, d, J=6.8 Hz), 7.36 (1H, d, J=7.4 Hz), 7.42-7.54 (1H, m), 7.64 (1H, d, J=7.9 Hz), 8.25 (1H, d, J=7.1 Hz), 8.80 (1H, s), 9.85 (1H, s) —C NMR 13 (DMSO) δ 23.9 (CH3), 47.8 (CHNH), 111.1 (CH), 115.7 (CH), 116.7 (CH), 118.7 (CH), 121.5 (CH), 125.3 (Cq), 127.2 (CH), 127.4 (Cq), 127.8 (CH), 128.3 (CH), 129.2 (Cq), 135.9 (CH), 137.5 (CH), 138.2 (Cq), 148.1 (CH), 149.7, 155.1, 155.6 and 157.6 (4×Cq).

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2-amino-6-picoline | 1 equivalent | NC1=NC(=CC=C1)C | C6H8N2
reactant | 8-hydroxy-quinoline | 0.6 equivalent | OC=1C=CC=C2C=CC=NC12 | C9H7NO
product | 7-[(2-hydroxyphenyl)-(6-methyl-pyridin-2-ylamino)-methyl]-quinolin-8-ol | OC1=C(C=CC=C1)C(C1=CC=C2C=CC=NC2=C1O)NC1=NC(=CC=C1)C | C22H19N3O2
